US08404677B2
2-(4-hydroxypiperidin-1-yl)-4-(3-(trifluoromethyl)phenylamino) pyrido[4,3-d]pyrimidine-5(6H)-one
The title compound was prepared as described in Example 1g by starting from 2-(methylthio)-4-(3-(trifluoromethyl)phenylamino)pyrido[4,3-d]pyrimidin-5(6H)-one (100 mg, 0.26 mmol) and 4-hydroxypiperidine to yield the title compound (73 mg) as white solids. MS m/z: 406 (M+H)+, 1H NMR (300 MHz), δ ppm 1.21-1.35 (m, 4H), 3.76-3.78 (m, 1H), 4.26-4.28 (m, 4H), 6.17 (d, J=7.2 Hz, 1H), 7.38-7.68 (m, 4H), 7.90 (s, 1H), 8.61 (s, 1H), 11.42 (s, 1H), 12.10 (s, 1H).

reactant | 2-(methylthio)-4-(3-(trifluoromethyl)phenylamino)pyrido[4,3-d]pyrimidin-5(6H)-one | 0.26 mmol, 100 mg | CSC=1N=C(C2=C(N1)C=CNC2=O)NC2=CC(=CC=C2)C(F)(F)F | C15H11F3N4OS
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 2-(4-hydroxypiperidin-1-yl)-4-(3-(trifluoromethyl)phenylamino) pyrido[4,3-d]pyrimidine-5(6H)-one | 73 mg | OC1CCN(CC1)C=1N=C(C2=C(N1)C=CNC2=O)NC2=CC(=CC=C2)C(F)(F)F | C19H18F3N5O2
